US05834462
1.57 g (10 mmol) of 2-amino-3-nitrophenol was dissolved in 20 ml of pyridine and 3.36 g (21 mmol) of 2-fluorobenzoyl chloride was added thereto under stirring. After heating under reflux for 4 hours, the mixture was concentrated. Then dilute hydrochloric acid and ethyl acetate were added thereto. The organic layer was separated and washed with water. After concentrating, 20 ml of tetrahydrofuran and 20 ml of 1N sodium hydroxide were added and the mixture was heated under reflux for 4 hours. After cooling, it was neutralized with hydrochloric acid and concentrated. After adding ethyl acetate and water, the organic layer was separated, washed with water and dried over magnesium sulfate. After concentrating, the residue was purified by silica gel column chromatography. Thus 2.35 g of 2-fluoro-N-(2-hydroxy-6-nitrophenyl)benzamide was obtained. 553 mg (2 mmol) of this powder was dissolved in 20 ml of dimethylformamide and 332 mg (2.4 mmol) of potassium carbonate and 20 mg of a copper powder were added thereto. After heating under reflux for 3 hours and concentrating, ethyl acetate and dilute hydrochloric acid were added to the residue. The formed insoluble matters were filtered off and the organic layer was separated, washed with water, dried over magnesium sulfate and concentrated. Then the residue was purified by silica gel column chromatography. Thus 400 mg of the title compound was obtained.

reactant | 2-amino-3-nitrophenol | 10 mmol, 1.57 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 2-fluorobenzoyl chloride | 21 mmol, 3.36 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluoro-N-(2-hydroxy-6-nitrophenyl)benzamide | 2.35 g | FC1=C(C(=O)NC2=C(C=CC=C2[N+](=O)[O-])O)C=CC=C1 | C13H9FN2O4
